US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-7-(2-isopropoxyethoxy)-5-methoxyquinazolin-4(3H)-one
To a suspension of sodium hydride (60% suspension in mineral oil, 0.24 g, 6.00 mmol) in anhydrous DMSO (10 mL) was added 2-isopropoxy-ethanol at room temperature under nitrogen. The mixture was stirred for 20 minutes at room temperature, then 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one (0.30 g, 1.00 mmol) was added and the reaction mixture was stirred at 80° C. for 16 hours, then cooled to room temperature. Water (50 mL) was added, and the mixture was extracted with a mixture of ethyl acetate and THF (4:1, 200 mL). The organic phase was washed with brine and dried over anhydrous sodium sulfate. Solvent was evaporated, and the crude compound was purified by the Simpliflash system (3:15:82 methanol, ethyl acetate and dichloromethane as eluent) to give the title compound as a white solid. Yield: 127 mg (33%). MP 188-189° C. 1H NMR (400 MHz, CDCl3): δ 11.14 (br s, 1H), 7.72 (s, 2H), 6.86 (d, J=2.34 Hz, 1H), 6.59 (d, J=2.34 Hz, 1H), 4.35-4.15 (m, 2H), 3.97 (s, 3H), 3.89-3.79 (m, 2H), 3.78-3.64 (m, 1H), 2.66 (s, 6H), 1.23 (d, J=5.85 Hz, 6H). MS (ES+) m/z: 384.20 (100%).

reactant | sodium hydride | 6.00 mmol, 0.24 g | [H-].[Na+]
reactant | 2-isopropoxy-ethanol | C(C)(C)OCCO | C5H12O2
reactant | 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one | 1.00 mmol, 0.30 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C16H14FN3O2
reactant | Water | 50 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-(2,6-Dimethylpyridin-4-yl)-7-(2-isopropoxyethoxy)-5-methoxyquinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OCCOC(C)C)C | C21H25N3O4
